US08110683B2
A mixture of 3-bromoquinoline (10.40 g, 0.05 mol), trimethylsilylacetylene (8.48 mL, 0.06 mol), cuprous iodide (0.5 g) and trans-dichlorobis(triphenylphosphine)palladium (1 g) and TEA (15 mL) was heated at 70° C. in a sealed tube for 1 h. H2O (150 mL) was added, followed by Et2O (300 mL). The organic layer was separated and the aqueous layer extracted with Et2O (200 mL). The combined organic layers were dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (eluent: 100% DCM) to give 3-(trimethylsilylethynyl) quinoline as a brown oil. 3-(Trimethylsilylethynyl) quinoline was dissolved in anhydrous MeOH (100 mL) and K2CO3 (0.69 g, 5 mmol) was added. The mixture was stirred at rt for 1 h and DCM (250 mL) was added. The mixture was filtered over celite. The filtrate was evaporated and the residue was purified by flash column chromatography to give Compound 13b as an off-white solid.

reactant | 3-bromoquinoline | 0.05 mol, 10.40 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | trimethylsilylacetylene | 0.06 mol, 8.48 mL | C[Si](C)(C)C#C | C5H10Si
reactant | H2O | 150 mL | O | H2O
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 3-(trimethylsilylethynyl) quinoline | C[Si](C)(C)C#CC=1C=NC2=CC=CC=C2C1 | C14H15NSi
